US06936602B1
In THF (35 ml) were dissolved methyl 7-[4-(3-ethoxypropoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.4 g) and pyridine (0.75 ml). To the solution was added methanesulfonic anhydride (0.92 g), and the mixture was stirred under nitrogen atmosphere at room temperature overnight. To the mixture was added methanesulfonic anhydride (0.25 g), and the mixture was stirred at 50° C. overnight. The solvent was evaporated. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-[4-(3-ethoxypropoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.26 g) as pale yellow crystals.

reactant | methyl 7-[4-(3-ethoxypropoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.4 g | C(C)OCCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C23H27NO4
reactant | pyridine | 0.75 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 0.92 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 0.25 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | methyl 7-[4-(3-ethoxypropoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.26 g | C(C)OCCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2S(=O)(=O)C)C(=O)OC)C1 | C24H29NO6S
